US06642389B2
In analogy to the procedure described in example 105 a], [rac]-2-amino-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-7-yl}-propionic acid ethyl ester was reacted with 1-(4-trifluoromethyl-phenyl)-butane-1,3-dione in toluene in the presence of a catalytic amount of p-toluene sulfonic acid at reflux to yield [rac]-2-[1-methyl-3-oxo-3-(4-trifluoromethyl-phenyl)-(Z)-propenylamino]-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-7-yl}-propionic acid ethyl ester, which was further saponified in analogy to the procedure described in example 105 b] to yield [rac]-2-[1-methyl-3-oxo-3-(4-trifluoromethyl-phenyl)-(Z)-propenylamino]-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-7-yl}-propionic acid as light yellow solid.

reactant | [rac]-2-amino-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-7-yl}-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C2=C1SC=C2)OCCC=2N=C(OC2C)C2=CC=CC=C2)N)=O | C25H26N2O4S
reactant | 1-(4-trifluoromethyl-phenyl)-butane-1,3-dione | FC(C1=CC=C(C=C1)C(CC(C)=O)=O)(F)F | C11H9F3O2
reactant | p-toluene sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | [rac]-2-[1-methyl-3-oxo-3-(4-trifluoromethyl-phenyl)-(Z)-propenylamino]-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-7-yl}-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C2=C1SC=C2)OCCC=2N=C(OC2C)C2=CC=CC=C2)N\C(=C/C(C2=CC=C(C=C2)C(F)(F)F)=O)\C)=O | C36H33F3N2O5S
